US08859574B2
To a solution of 2-bromo-4-fluoro-1-methylbenzene (5 g, 26.4 mmol) dissolved in conc. sulfuric acid (20 mL) was added potassium nitrate (2.67 g, 26.4 mmol) in sulfuric acid (5 mL) at 0° C. After stirring at 0° C. for 1 hr, the reaction was diluted with water, extracted with ethyl acetate (3×40 mL). The combined organic phases were washed with saturated sodium bicarbonate solution and brine sequentially, and then dried over Na2SO4. The crude product obtained after concentration was purified by silica gel column chromatography with mixed solvent hexanes/EtOAc (95/5) to afford 1-bromo-5-fluoro-2-methyl-4-nitrobenzene as an orange solid. 1H NMR (400 MHz, chloroform-d) δ 7.93 (d, 1H, J=7.6 Hz), 7.50 (d, 1H, J=10 Hz), 2.43 (s, 3H).

reactant | 2-bromo-4-fluoro-1-methylbenzene | 26.4 mmol, 5 g | BrC1=C(C=CC(=C1)F)C | C7H6BrF
reactant | potassium nitrate | 26.4 mmol, 2.67 g | [N+](=O)([O-])[O-].[K+]
solvent | sulfuric acid | 20 mL | S(O)(O)(=O)=O | H2O4S
solvent | sulfuric acid | 5 mL | S(O)(O)(=O)=O | H2O4S
solvent | water | O | H2O
product | 1-bromo-5-fluoro-2-methyl-4-nitrobenzene | BrC1=C(C=C(C(=C1)F)[N+](=O)[O-])C | C7H5BrFNO2
